US05958870
To a mixture of N,N-dioctylglycine methyl ester (47.02 g, 150 mmol, 1 eq) in toluene (250 ml) under argon was slowly added some sodium methoxide (1.01 g, 0.019 mol, 0.125 eq) and geraniol (27.3 ml, 158 mmol, 1.05 eq). The mixture was heated under vacuum (10 mm Hg) and the methanol produced by the transesterification reaction is distilled with toluene over one hour after which the reaction appeared completed by 1H NMR. Any remaining toluene is evaporated under vacuum. Diethyl ether was added (200 ml) and the mixture stored at 4° C. for one hour prior to filtration. The filtrate was then concentrated under vacuum yielding to the expected N,N-dioctylglycine geranyl ester as a light yellow oil (quantitative yield).

reactant | N,N-dioctylglycine methyl ester | 150 mmol, 47.02 g, 1 eq | COC(CN(CCCCCCCC)CCCCCCCC)=O | C19H39NO2
reactant | sodium methoxide | 0.019 mol, 1.01 g, 0.125 eq | C[O-].[Na+]
reactant | geraniol | 158 mmol, 27.3 ml, 1.05 eq | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | methanol | CO | CH4O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dioctylglycine geranyl ester | quantitative yield | C(\C=C(/C)\CCC=C(C)C)OC(CN(CCCCCCCC)CCCCCCCC)=O | C28H53NO2
